US06762180B1
(86) 3-Z-[1-(4-(cyclohexylyl-methyl)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone and 4-(cyclohexyl-methyl)-aniline (Eur. J. Med. Chem. Chim. Ther. 1992, 27, 537-544) Rf value: 0.6 (silica gel, methylene chloride/methanol=10:1) C30H30N2O3

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OC)=C(C1=CC=CC=C1)OCC)=O | C21H19NO5
reactant | 4-(cyclohexyl-methyl)-aniline | C1(CCCCC1)CC1=CC=C(N)C=C1 | C13H19N
product | 3-Z-[1-(4-(cyclohexylyl-methyl)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | C1(CCCCC1)=CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1 | C30H28N2O3
